US07285563B2
N-[6-(trifluoromethyl)isoquinolin-5-yl]-N′-[4-(trifluoromethyl)benzyl]urea
To a solution of 6-(trifluoromethyl)isoquinolin-5-amine (Description 98; 100 mg, 0.47 mmol) in anhydrous toluene (5 ml) was added [4-(trifluoromethyl)benzyl]isocyanate (Description 58) [0.506M soln in DCM] (1.88 ml; 0.94 mmol) and the mixture heated at reflux overnight. Further [4-(trifluoromethyl)benzyl]isocyanate [0.506M soln in DCM] (1.88 ml; 0.94 mmol) was added and heating continued for 4 days. The toluene was removed, the residue dissolved in methanol (10 ml) and a spatula end of potassium carbonate added. The mixture was then heated at reflux for 15 mins. The mixture was cooled and filtered and the filtrate evaporated. The residue was purified by mass directed HPLC to give the title compound (8 mg, 4%) as a white solid. m/z (ES+) 414 (M+H)+.

reactant | 6-(trifluoromethyl)isoquinolin-5-amine | 0.47 mmol, 100 mg | FC(C1=C(C=2C=CN=CC2C=C1)N)(F)F | C10H7F3N2
reactant | [4-(trifluoromethyl)benzyl]isocyanate | FC(C1=CC=C(CN=C=O)C=C1)(F)F | C9H6F3NO
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-[6-(trifluoromethyl)isoquinolin-5-yl]-N′-[4-(trifluoromethyl)benzyl]urea | 8 mg, 4% | FC(C=1C(=C2C=CN=CC2=CC1)NC(=O)NCC1=CC=C(C=C1)C(F)(F)F)(F)F | C19H13F6N3O
